US07342014B2
Methyl 1-(bromomethyl)cyclopropanecarboxylate
Triphenylphosphine (10 g) and carbon tetrabromide (16 g) were added to a solution of the compound (4.20 g) obtained in Referential Example 162 in methylene chloride (168 ml) at room temperature under a nitrogen atmosphere. After 2 minutes, a saturated aqueous solution of sodium hydrogencarbonate was added thereto. After the resultant organic layer was washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resultant residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:19) to obtain the title compound (2.15 g).

reactant | Triphenylphosphine | 10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 16 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | methylene chloride | 168 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(bromomethyl)cyclopropanecarboxylate | 2.15 g | BrCC1(CC1)C(=O)OC | C6H9BrO2
